US09107916B2
A. methyl 4-(4-chlorophenyl)-4-methyl-3-oxopentanoate
To a solution of 2-(4-chlorophenyl)-2-methylpropanoic acid (200 mg, 1.01 mmol) in THF (20 mL) was added CDI (172 mg, 1.06 mmol) at rt. The reaction mixture was stirred at rt for 2 h. Added MgCl2 (105 mg, 1.11 mmol) and 3-methoxy-3-oxopropanoic acid potassium salt (173 mg, 1.11 mmol) at rt. The mixture was stirred at 60° C. overnight. Dilute with ethyl acetate (100 mL), washed with 0.5 N HCl (20 mL×2) and brine (50 mL), dried over Na2SO4, filtered, concentrated, purified by flash column chromatography to give the title compound (60 mg, 23%) as a yellow oil. 1H NMR (300 MHz, CDCl3): δ 1.51 (6H, s), 3.28 (2H, s), 3.67 (3H, s), 7.20-7.30 (2H, m), 7.34-7.37 (2H, m).

reactant | 2-(4-chlorophenyl)-2-methylpropanoic acid | 1.01 mmol, 200 mg | ClC1=CC=C(C=C1)C(C(=O)O)(C)C | C10H11ClO2
reactant | CDI | 1.06 mmol, 172 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | MgCl2 | 1.11 mmol, 105 mg | [Mg+2].[Cl-].[Cl-]
reactant | 3-methoxy-3-oxopropanoic acid potassium salt | 1.11 mmol, 173 mg | [K+].COC(CC(=O)[O-])=O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | methyl 4-(4-chlorophenyl)-4-methyl-3-oxopentanoate | 60 mg, 23% | ClC1=CC=C(C=C1)C(C(CC(=O)OC)=O)(C)C | C13H15ClO3
